US04175187
A mixture of 10 mmoles 2-bromopropene, 12.5 mmoles 2-methyl-3-buten-2-ol, 30 mmoles piperidine, 0.10 mmole palladium acetate and 0.20 mmole triphenylphosphine were heated together at 100° C. for 20 hrs. From the reaction mixture there was isolated an 80% yield of 2,5-dimethyl-6-piperidinohex-4-en-2-ol.

reactant | 2-bromopropene | 10 mmoles | BrC(=C)C | C3H5Br
reactant | 2-methyl-3-buten-2-ol | 12.5 mmoles | CC(C)(C=C)O | C5H10O
reactant | piperidine | 30 mmoles | N1CCCCC1 | C5H11N
reactant | triphenylphosphine | 0.20 mmole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium acetate | 0.10 mmole | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2,5-dimethyl-6-piperidinohex-4-en-2-ol | 80% yield | CC(C)(CC=C(CN1CCCCC1)C)O | C13H25NO
